US08030487B2
Synthesis of 2-Chloro-5-(3-Fluoro-Benzoylamino)-Benzoic Acid (Intermediate 20)
5-Amino-2-chloro-benzoic acid (0.96 g, 5.58 mmol) was diluted with THF (60 mL), treated with 3-fluoro-benzoyl chloride (0.738 mL, 6.14 mmol) and stirred for 18 h. Solvents were then removed and resulting solids were triturated with DCM. After filtration, the title compound was obtained as a white solid (1.7 g, 99%).

reactant | 5-Amino-2-chloro-benzoic acid | 5.58 mmol, 0.96 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | 3-fluoro-benzoyl chloride | 6.14 mmol, 0.738 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-(3-Fluoro-Benzoylamino)-Benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)NC(C1=CC(=CC=C1)F)=O | C14H9ClFNO3
